### PR TITLE
Projectivity, final draft

### PR DESCRIPTION
**Pull request by jarlg**
Addresses all comments from the PR, and your comments on `projectivity-wip`. I've rebased the the original PR, so if this looks fine I'll just push these updates to `projectivity` and delete these wip branches.

### CODE REVIEW

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 1]
```diff
@@ -70,6 +78,54 @@ Definition equiv_path_TypeO@{i j} {fs : Funext} O (T T' : Type_ O)
...
+  (** The projection from a family of local types is local. *)
+  Global Instance mapinO_pr1 {A : Type} {B : A -> Type}
+         `{forall a, In O (B a)}
+  : MapIn O (@pr1 A B).
+  Proof.
+    intros a.
+    exact (inO_equiv_inO (B a) (hfiber_fibration a B)).
+  Defined.
+
+  Lemma equiv_forall_inO_fiber_pr1 `{Funext} {A : Type} (B : A -> Type)
```
Comment (jdchristensen) [inline theories/Modalities/ReflectiveSubuniverse.v:112]: (** A family of types is local if and only if the associated projection map is local. *)

File: theories/Projective.v [hunk 2]
```diff
@@ -77,14 +67,7 @@ Proof.
...
 
-(** Finite sets (as in Spaces/Finite.v) are projective. *)
-Theorem isprojective_fin_n `{Funext} (n : nat) : IsProjective (Fin n).
-Proof.
-  apply (equiv_isprojective_choice (Fin n))^-1.
-  rapply finite_choice.
-Defined.
-
-Proposition isprojective_unit `{Funext} : IsProjective Unit.
+Proposition isprojective_unit `{Univalence} : IsProjective Unit.
```
Comment (jdchristensen) [inline theories/Projective.v]: Why does this need Univalence now?

Comment (jarlg) [reply theories/Projective.v]: Sorry I didn't catch that. Fixed.

**Comment by jdchristensen** [comment]
Looks good!
